US08471005B2
(R)-1-{7-Methoxy-8-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl}-propan-2-ol
Following a procedure analogous to 251c, (R)-1-(7-Amino-8-methoxy-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-propan-2-ol (0.139 g, 0.557 mmol) and 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (64 mg, 0.22 mol) were converted to the title compounds (22.66 mgs) as a TFA salt. H-NMR (CDCl3) δ 9.30 (broad s, 1H, TFA), 8.96 (s, 1H), 7.97 (s, 1H), 7.82 (d, J=7.6 Hz, 1H), 7.61 (s, 1H), 7.50-7.45 (m, 1H), 7.26-7.21 (m, 1H), 7.14-7.09 (m, 1H), 6.99-6.93 (m, 2H), 6.93 (s, 1H), 4.22-4.12 (m, 1H), 3.86 (s, 3H), 3.78 (s, 3H), 3.69-3.60 (m, 2H), 3.29-2.93 (complex series of m, 8H), 1.16 (d, J=6.0 Hz, 3H); LC/MS (ESI+): 474.6 (M+H).

reactant | (R)-1-(7-Amino-8-methoxy-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-propan-2-ol | 0.557 mmol, 0.139 g | NC1=CC2=C(CCN(CC2)C[C@@H](C)O)C=C1OC | C14H22N2O2
reactant | 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.22 mol, 64 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-1-{7-Methoxy-8-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl}-propan-2-ol | COC1=CC2=C(CCN(CC2)C[C@@H](C)O)C=C1NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C27H31N5O3
